US07745467B2
6.1. (Chloromethyl)dimethylpyrazine (Mixture of 3 Isomers)
7.6 g (32.74 mmol) of trichloroisocyanuric acid are added, over 1 hour, to a solution, maintained at reflux, of 10 g of trimethylpyrazine (81.85 mmol) in 820 ml of dichloroethane. The reaction mixture is refluxed for 6 hours and then cooled to 20° C., stirred for a further 12 hours and filtered. The filtrate is concentrated under reduced pressure, taken up in 200 ml of ethyl ether, filtered again and then concentrated under reduced pressure. 9.6 g of methyldimethylpyrazine chloride are recovered in the form of a mixture, which is used without further purification in the following step.

reactant | trichloroisocyanuric acid | 32.74 mmol, 7.6 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | trimethylpyrazine | 81.85 mmol, 10 g | CC=1N=C(C(=NC1)C)C | C7H10N2
solvent | dichloroethane | 820 ml | ClC(C)Cl | C2H4Cl2
product | (Chloromethyl)dimethylpyrazine | ClCC=1N=C(C(=NC1)C)C | C7H9ClN2
